// clk_burst_gen: Outputs 2 consecutive CLK pulses every div input cycles
simulator lang=spectre
global 0

ahdl_include "clk_burst_gen.va"

// Input clock: 100ns period
Vclk (CLK 0) vsource type=pulse val0=0 val1=0.9 period=100n delay=5n rise=1n fall=1n width=49n

// Reset: deassert at 20ns (active-low)
Vrst_n (RST_N 0) vsource type=pwl \
        wave=[0 0 19n 0 20n 0.9 3000n 0.9]

IDUT (CLK RST_N CLK_OUT) clk_burst_gen div=8 vdd=0.9 vth=0.45

tran tran stop=3000n maxstep=1n
save CLK:2e RST_N:d CLK_OUT:2e
